US07560558B2
2-Amino-pyridine-3-carbaldehyde (100 mg) and 2-chloro-1-phenyl-ethanone (127 mg) were suspended in a 5 N aqueous sodium hydroxide solution (0.6 ml), and the suspension was hermetically sealed and, in this state, was allowed to stand for 3 days. The reaction solution was neutralized with 10% hydrochloric acid. Dichloromethane was then added thereto, and the mixture was extracted. The dichloromethane layer was washed with water and saturated brine and was dried over magnesium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using chloroform-methanol to give 2-phenyl-[1,8]naphthyridin-3-ol (23 mg, yield 13%).

reactant | 2-Amino-pyridine-3-carbaldehyde | 100 mg | NC1=NC=CC=C1C=O | C6H6N2O
reactant | 2-chloro-1-phenyl-ethanone | 127 mg | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | sodium hydroxide | 5 N, 0.6 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | Dichloromethane | ClCCl | CH2Cl2
product | 2-phenyl-[1,8]naphthyridin-3-ol | 23 mg, yield 13% | C1(=CC=CC=C1)C1=NC2=NC=CC=C2C=C1O | C14H10N2O
